US04942170
2,3-Bis(3-(2-amidinohydrazono)butyl)-1,4-naphthoquinone dihydrochloride (Compound A)
Naphthoquinone (3.12 g, 20 mmol), 4-oxopentanoic acid (13.9 g, 120 mmol) and silver nitrate (2.0 g, 11.8 mmole) are combined in 30% aqueous acetonitrile at 65° C. A solution of ammonium peroxydisulfate (12.0 g, 52.6 mmole) is added dropwise over 30 minutes while the stirred mixture is maintained at 65°-75° C. On cooling, the mixture is extracted with diethyl ether (300 ml). The extract is then washed with water (3×50 ml), 5% NaHCO3 (2×50 ml) and brine (50 ml) and dried over MgSO4. After filtration through active carbon, the ether solution is evaporated to give crude 2,3-bis(3-oxobutyl)-1,4-naphthoquinone which is recrystallized from aqueous ethanol to give 1.45 g product, mp 110°-112° C. This 2,3-bis(3-oxobutyl)-1,4-naphthoquinone (0.456 g, 1.53 mmole), aminoguanidine hydrochloride (0.46 g, 4.3 mmole) and a drop of concentrated HCl are combined in 5 ml of 90% ethanol and heated at reflux for 3 hours. On cooling, 2,3-bis(3-(2-amidinohydrazono)butyl)-1,4-naphthoquinone crystallizes from the reaction mixture, and recrystallization from ethanol gives 400 mg product, mp 181°-183° C.

reactant | 2,3-bis(3-oxobutyl)-1,4-naphthoquinone | 1.53 mmole, 0.456 g | O=C(CCC=1C(C2=CC=CC=C2C(C1CCC(C)=O)=O)=O)C | C18H18O4
reactant | aminoguanidine hydrochloride | 4.3 mmole, 0.46 g | C(=N)(N)NN.Cl
reactant | HCl | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 2,3-Bis(3-(2-amidinohydrazono)butyl)-1,4-naphthoquinone dihydrochloride | 400 mg | Cl.Cl.C(N)(=N)NN=C(CCC=1C(C2=CC=CC=C2C(C1CCC(C)=NNC(N)=N)=O)=O)C | InChI=1S/C20H26N8O2.2ClH/c1-11(25-27-19(21)22)7-9-15-16(10-8-12(2)26-28-20(23)24)18(30)14-6-4-3-5-13(14)17(15)29;;/h3-6H,7-10H2,1-2H3,(H4,21,22,27)(H4,23,24,28);2*1H
